US04591597
20.4 g of 1-cyclohexyl-2-imino-imidazolidine hydrochloride are added to 8.5 g of sodium hydroxide in 85 ml of water. There is added to the resulting solution 28.8 g of 4-(2-crotonylaminoethyl)-benzenesulphonyl chloride dissolved in 100 ml of acetone, the reaction mixture becoming warm. It is heated at 90° for half an hour and then concentrated by evaporation under reduced pressure. The residue is recrystallised from ethyl acetate, and 1-{4-[2-(crotonylamino)-ethyl]-phenylsulphonyl}-3-cyclohexyl-2-imino-imidazolidine (trans) which melts at 157° to 158° is obtained.

reactant | 1-cyclohexyl-2-imino-imidazolidine hydrochloride | 20.4 g | Cl.C1(CCCCC1)N1C(NCC1)=N
reactant | sodium hydroxide | 8.5 g | [OH-].[Na+]
reactant | 4-(2-crotonylaminoethyl)-benzenesulphonyl chloride | 28.8 g | C(\C=C\C)(=O)NCCC1=CC=C(C=C1)S(=O)(=O)Cl | C12H14ClNO3S
solvent | water | 85 ml | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-{4-[2-(crotonylamino)-ethyl]-phenylsulphonyl}-3-cyclohexyl-2-imino-imidazolidine | C(\C=C\C)(=O)NCCC1=CC=C(C=C1)S(=O)(=O)N1C(N(CC1)C1CCCCC1)=N | C21H30N4O3S
